US04904691
Step 5: (E)-3-[7,9-di-(4-fluorophenyl)spiro[4.5]deca-6,8-dien-6-yl]2-propenaldehyde
To a solution of phosphorus oxychloride (1.69 ml, 18.15 mmoles) in 50 ml of acetonitrile cooled in an ice bath was added 3-dimethylaminoacrolein (1.68 ml, 16.75 mmoles) dropwise over 3 minutes. The mixture was stirred for 5 minutes and a solution of 7,9-di-(4-fluorophenyl)spiro[4.5]deca-6,8-diene (4.5 g, 13.96 mmoles) in 150 ml of warm acetonitrile was added dropwise over 30 minutes. The mixture was stirred at room temperature for 16 hours and was then heated in an oil bath at 60° C. for 6 hours. The mixture was cooled and poured into 400 ml of cold 1N sodium hydroxide. The mixture was extracted with ether. The ether was washed with water and evaporated in vacuo. The residue was triturated with 17.5 ml of boiling hexane and was filtered. The filtrate, upon cooling in the freezer overnight, deposited 2.7 g of product having an m.p. of 120°-4° C.

reactant | phosphorus oxychloride | 18.15 mmoles, 1.69 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-dimethylaminoacrolein | 16.75 mmoles, 1.68 ml | CN(C=CC=O)C | C5H9NO
reactant | 7,9-di-(4-fluorophenyl)spiro[4.5]deca-6,8-diene | 13.96 mmoles, 4.5 g | FC1=CC=C(C=C1)C1=CC2(CCCC2)CC(=C1)C1=CC=C(C=C1)F | C22H20F2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | (E)-3-[7,9-di-(4-fluorophenyl)spiro[4.5]deca-6,8-dien-6-yl]2-propenaldehyde | FC1=CC=C(C=C1)C1=C(C2(CCCC2)CC(=C1)C1=CC=C(C=C1)F)/C=C/C=O | C25H22F2O
